US06743814B2
1.0 g of 2-(3,4,4-trifluoro-3-butenylthio)oxazole and 1.5 g of m-chloroperbenzoic acid (purity about 70%) were added to 50 ml of dichloromethane and stirred at room temperature for 20 hours. The reaction mixture was washed with 50 ml of 1N aqueous solution of sodium hydroxide and dried with magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by column chromatography (eluent: ethyl acetate:dichloromethane=1:4) to obtain 1.0 g of 2-(3,4,4-trifluoro-3-butenylsulfinyl)oxazole as colorless oil (yield 92.9%, n20D=1.4820).

reactant | 2-(3,4,4-trifluoro-3-butenylthio)oxazole | 1.0 g | FC(CCSC=1OC=CN1)=C(F)F | C7H6F3NOS
reactant | m-chloroperbenzoic acid | 1.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3,4,4-trifluoro-3-butenylsulfinyl)oxazole | 1.0 g, yield 92.9% | FC(CCS(=O)C=1OC=CN1)=C(F)F | C7H6F3NO2S
